US05646308
A mixture of 0.13 g of 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carbonitrile, 10 ml of acetic acid, 5 ml of water and 5 ml of concentrated sulfuric acid was refluxed with heating for 2 hours. When the reaction mixture was poured into ice water, crystals were separated out. The crystals were dissolved into a sodium hydrogencarbonate solution and washed with methylene chloride. A water layer was acidified to be hydrochloric acid and extracted with methylene chloride. After an organic layer was washed with water and dried, the solvent was distilled. The resultant residue was crystallized by a mixed solvent of ethyl acetate and methanol to obtain 55 mg of 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carboxylic acid with a melting point of 259°-261° C.

reactant | 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carbonitrile | 0.13 g | [N+](=O)([O-])C=1C=CC2=C(C(=CC3(CCSCC3)O2)C#N)C1 | C14H12N2O3S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 ml | O | H2O
product | 6-nitrospiro[2H-1-benzopyran-2,4'-tetrahydrothiopyran]-4-carboxylic acid | 55 mg | [N+](=O)([O-])C=1C=CC2=C(C(=CC3(CCSCC3)O2)C(=O)O)C1 | C14H13NO5S
